US08115006B2
Preparation (1) of N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide
To a 2-methyl-2-propanol 3 ml mixed liquid comprising 0.10 g of N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-5-oxopyrazolidine-3-carboxamide and 0.09 g of 2,3-dichloropyridine, 15 wt % of palladium-carbon (DeGussa type E105CA/W, manufactured by Aldrich) was added, and then 0.045 g of sodium t-butoxide was added. The mixed liquid was subjected to reaction under reflux for 9 hours. After the reaction liquid was stood to cool, it was poured to a 1 M HCl aqueous solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The organic layer was subjected to celite filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 1/1) to obtain 0.11 g of the desired product (melting point: 165 to 167° C.).

reactant | N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-5-oxopyrazolidine-3-carboxamide | 0.10 g | ClC1=CC(=C(C=C1)NC(=O)C1NNC(C1)=O)C(NC(C)C1CC1)=O | C16H19ClN4O3
reactant | 2,3-dichloropyridine | 0.09 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | sodium t-butoxide | 0.045 g | CC(C)([O-])C.[Na+]
reactant | HCl | 1 M | Cl | ClH
catalyst | palladium-carbon | [C].[Pd]
solvent | 2-methyl-2-propanol | 3 ml | CC(C)(C)O | C4H10O
product | N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide | 0.11 g | ClC1=CC(=C(C=C1)NC(=O)C1CC(=NN1C1=NC=CC=C1Cl)O)C(NC(C)C1CC1)=O | C21H21Cl2N5O3
